US04018785
A mixture of ethyl 2-[3-chloro-4-(N-thiazol-2-ylamino)phenyl]acetate (8.9 g), methyl iodide (44 ml) and ethanol (44 ml) is heated at 50°-55° C for 42 hours with stirring. The ethanol and methyl iodide are evaporated and the residue is washed with ether and kept at room temperature to give a precipitate. The precipitate is washed with ethyl acetate and cold acetone successively and recrystallized from acetone to give 3-methyl-2-[2-chloro-4-(ethoxycarbonylmethyl)anilino]-thiazolium iodide (6.6 g) melting at 147°-148° C.

reactant | ethyl 2-[3-chloro-4-(N-thiazol-2-ylamino)phenyl]acetate | 8.9 g | ClC=1C=C(C=CC1NC=1SC=CN1)CC(=O)OCC | C13H13ClN2O2S
reactant | methyl iodide | 44 ml | CI | CH3I
solvent | ethanol | 44 ml | C(C)O | C2H6O
product | 3-methyl-2-[2-chloro-4-(ethoxycarbonylmethyl)anilino]-thiazolium iodide | 6.6 g | [I-].C[N+]1=C(SC=C1)NC1=C(C=C(C=C1)CC(=O)OCC)Cl | InChI=1S/C14H15ClN2O2S.HI/c1-3-19-13(18)9-10-4-5-12(11(15)8-10)16-14-17(2)6-7-20-14;/h4-8H,3,9H2,1-2H3;1H
